US09382188B2
sodium 3-cyclopropyl-3-(3-(((2-(2,2-dimethylpropyl)-2′-fluoro-5′-methoxybiphenyl-4-yl)oxy)methyl)phenyl)propanoate
A 28% solution of sodium methoxide (100 mg) in methanol was added to a solution of 3-cyclopropyl-3-(3-(((2-(2,2-dimethylpropyl)-2′-fluoro-5′-methoxybiphenyl-4-yl)oxy)methyl)phenyl)propanoic acid (255 mg) in methanol (2.5 mL), and the mixture was stirred at room temperature for 5 min. The reaction mixture was concentrated under reduced pressure to give the title compound (252 mg) as a white amorphous solid.

reactant | sodium methoxide | 100 mg | C[O-].[Na+]
reactant | 3-cyclopropyl-3-(3-(((2-(2,2-dimethylpropyl)-2′-fluoro-5′-methoxybiphenyl-4-yl)oxy)methyl)phenyl)propanoic acid | 255 mg | C1(CC1)C(CC(=O)O)C1=CC(=CC=C1)COC1=CC(=C(C=C1)C1=C(C=CC(=C1)OC)F)CC(C)(C)C | C31H35FO4
solvent | methanol | CO | CH4O
solvent | methanol | 2.5 mL | CO | CH4O
product | sodium 3-cyclopropyl-3-(3-(((2-(2,2-dimethylpropyl)-2′-fluoro-5′-methoxybiphenyl-4-yl)oxy)methyl)phenyl)propanoate | 252 mg | C1(CC1)C(CC(=O)[O-])C1=CC(=CC=C1)COC1=CC(=C(C=C1)C1=C(C=CC(=C1)OC)F)CC(C)(C)C.[Na+] | InChI=1S/C31H35FO4.Na/c1-31(2,3)18-23-15-25(10-12-26(23)28-16-24(35-4)11-13-29(28)32)36-19-20-6-5-7-22(14-20)27(17-30(33)34)21-8-9-21;/h5-7,10-16,21,27H,8-9,17-19H2,1-4H3,(H,33,34);/q;+1/p-1
